US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-dichlorophenyl)-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (9.0 g, 160.71 mmol in water), diazald (24 g, 112.02 mmol), ethylene glycol/Et2O (2/1 v/v, 140 mL), 1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-dichlorophenyl)-3-hydroxy-4-methyl-1H-pyrrol-2(5H)-one (3 g, 8.04 mmol, 1 eq) and MeOH (50 mL); yield: 1.2 g (38.46%); MS m/z: 388.1 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 12.44 (s, 1H), 8.16 (d, 1H), 7.64 (d, 1H), 7.54-7.40 (m, 2H), 7.32-7.18 (m, 3H), 7.08 (t, 1H), 6.31 (s, 1H), 3.96 (s, 3H), 1.73 (s, 3H); HPLC (METHOD [A]): rt 13.75 min (99.4%)

reactant | KOH | 160.71 mmol, 9.0 g | [OH-].[K+]
reactant | diazald | 112.02 mmol, 24 g | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 140 mL | C(CO)O.CCOCC
reactant | 1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-dichlorophenyl)-3-hydroxy-4-methyl-1H-pyrrol-2(5H)-one | 8.04 mmol, 3 g, 1 eq | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=C(C(=CC=C2)Cl)Cl)C)O)=O | C18H13Cl2N3O2
solvent | MeOH | 50 mL | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-dichlorophenyl)-3-methoxy-4-methyl-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)Cl)Cl)C)OC)=O | C19H15Cl2N3O2
